### PR TITLE
Engine: MemoBT complexity

### PR DESCRIPTION
**Pull request by Aurele-Barriere**

### CODE REVIEW

**Comment by Aurele-Barriere** [comment]
@shilangyu Here is the current complexity proof. The final theorems are stated using an `initial_memoset`. If you have time, could you tell me exactly which theorems you would need rephrased to use any "valid" memoset ?

File: Engine/Complexity.v [hunk 1]
```diff
@@ -6,791 +6,1238 @@ Import ListNotations.
...
+    specialize (memobt_progress rer code stk ms) as [next STEP].
+    specialize (memobt_decreases code inp (MBT stk ms) next n WF STEP INV) as [newm [INV2 DECR]].
+    specialize (H newm DECR next INV2) as [result [finalms STEPS]].
+    exists result. exists finalms. apply more_steps with (n:=S newm); try lia.
+    econstructor; eauto.
+  Qed.
+  
+  (** * Complexity Theorem  *)
+  
+  Theorem memobt_complexity:
```
Comment (shilangyu) [inline Engine/Complexity.v]: I need this theorem to be over all potential `ms`. If it makes things easier, you can restrict it to only valid `ms`.

Other than that, I don't use any other theorems from `Complexity.v`

File: Engine/Complexity.v [hunk 2]
```diff
@@ -6,791 +6,1238 @@ Import ListNotations.
...
+          ** eapply INPWF. right; eauto.
+        * constructor; auto.
+      + unfold memo_measure, msfree. apply exec_instr_explore in EXPLORE. rewrite length_app.
+        simpl. eapply msfree_add in MSWF as FREE; eauto. apply mswf_size in FREE. simpl in FREE. lia.
+  Qed.
+  
+  (** * Initial MemoBT Measure *)
+  
+  Definition mbt_complexity (r:regex) (inp:input) : nat :=
+    2 + 4 * (codesize r * inpsize inp).
```
Comment (shilangyu) [inline Engine/Complexity.v:1185]: I know we have a proof that `codesize r` is bounded by $O(|r|)$, but do we maybe want to express the complexity directly in terms of $|r|$ instead? Then the final complexity theorem is really directly proving that the engines are $O(|r| \cdot |s|)$. This applies to both PikeVM and MemoBT.

Comment (Aurele-Barriere) [reply Engine/Complexity.v:1185]: I thought it was a bit more resilient for when we'll change the way we compile r. But it's a good point, I'll think about it
